US04777180
A solution of 3.6 g of (1-propargyl-2,4-dioxo-imidazolidin-3-yl)-methanol in 10 ml of methylene chloride was added at 20° C. to a mixture of 4 g of (1R,trans)2,2-dimethyl-3-(cyclobutylidenemethyl)-cyclopropane-1-carboxylic acid, 4.6 g of dicyclohexylcarbodiimide, 20 ml of methylene chloride and a catalytic amount of 4-dimethylamino-pyridine and the mixture was stirred at 20° C. for 17 hours and was vacuum filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 7-3 cyclohexane-ethyl actate mixture and then a 95-5 benzene-ethyl acetate mixture yielded 1.2 g of (1-propargyl-2,4-dioxo-imidazolidin-3-yl)-methyl(1R,trans)2,2-dimethyl-3-(cyclobutylidenemethyl)-cyclopropane-1-carboxylate.

reactant | (1-propargyl-2,4-dioxo-imidazolidin-3-yl)-methanol | 3.6 g | C(C#C)N1C(N(C(C1)=O)CO)=O | C7H8N2O3
reactant | (1R,trans)2,2-dimethyl-3-(cyclobutylidenemethyl)-cyclopropane-1-carboxylic acid | 4 g | CC1([C@@H]([C@H]1C=C1CCC1)C(=O)O)C | C11H16O2
reactant | dicyclohexylcarbodiimide | 4.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (1-propargyl-2,4-dioxo-imidazolidin-3-yl)-methyl(1R,trans)2,2-dimethyl-3-(cyclobutylidenemethyl)-cyclopropane-1-carboxylate | 1.2 g | CC1([C@@H]([C@H]1C=C1CCC1)C(=O)OCN1C(N(CC1=O)CC#C)=O)C | C18H22N2O4
